US07294635B2
Step 3: Preparation of 1-(5-chlorothiophen-2-ylsulfonyl)-3-(4-(7-fluoro-6-(methylamino)-1-oxo-3,4-dihydroisoquinolin-2(1H)-yl)phenyl)urea
To a solution of 2-(4-aminophenyl)-7-fluoro-6-(methylamino)-3,4-dihydroisoquinolin-1(2H)-one (62 mg, 0.22 mmol) in HOAc (4 mL) at 100 C, ethyl 5-chlorothiophen-2-ylsulfonylcarbamate (119 mg, 0.44 mmol) was added. After being stirred at room temperature for 1 h, the reaction mixture was concentrated in vacuo. The residue was purified by RP-HPLC to give the titled compound as a powder (25 mg). ES-MS (M+H)+=509, 511 (Cl pattern).

reactant | 2-(4-aminophenyl)-7-fluoro-6-(methylamino)-3,4-dihydroisoquinolin-1(2H)-one | 0.22 mmol, 62 mg | NC1=CC=C(C=C1)N1C(C2=CC(=C(C=C2CC1)NC)F)=O | C16H16FN3O
reactant | ethyl 5-chlorothiophen-2-ylsulfonylcarbamate | 0.44 mmol, 119 mg | ClC1=CC=C(S1)S(=O)(=O)NC(OCC)=O | C7H8ClNO4S2
solvent | HOAc | 4 mL | CC(=O)O | C2H4O2
product | 1-(5-chlorothiophen-2-ylsulfonyl)-3-(4-(7-fluoro-6-(methylamino)-1-oxo-3,4-dihydroisoquinolin-2(1H)-yl)phenyl)urea | 25 mg | ClC1=CC=C(S1)S(=O)(=O)NC(=O)NC1=CC=C(C=C1)N1C(C2=CC(=C(C=C2CC1)NC)F)=O | C21H18ClFN4O4S2
